US08193236B2
3-Bromo-2-methyl-indolizine-6-carbonitrile
A solution of bromine (0.33 ml, 6.40 mmol. 1.0 equiv) in 10 ml of N,N-dimethylformamide is added under an atmosphere of argon at 0° C. to a solution of 2-methyl-indolizine-6-carbonitrile (1.0 g, 6.40 mmol) in 5 ml of N,N-dimethylformamide. The reaction mixture is heated in a microwave for 3 minutes at 80° C. After cooling, the reaction mixture is diluted with EtOAc and concentrated aqueous NaHCO3 solution. The aqueous phase is extracted three times with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. Purification of the residue via flash chromatography (hexane/EtOAc 4:1, +0.2% NEt3) affords the title compound (1.0 g, 53%). 1H NMR (400 MHz, d6-DMSO): δ=8.97 (t, J=1.4 Hz, 1H), 7.56 (s, 1H), 7.28 (d, J=9.3 Hz, 1H), 6.87 (dd, J=9.3/1.5 Hz, 1H), 2.15 (d, J=1.0 Hz, 3H). MS (ES+): 236 (M+H)30.

reactant | bromine | 6.40 mmol, 0.33 ml, 1.0 equiv | BrBr | Br2
reactant | 2-methyl-indolizine-6-carbonitrile | 6.40 mmol, 1.0 g | CC=1C=C2C=CC(=CN2C1)C#N | C10H8N2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-Bromo-2-methyl-indolizine-6-carbonitrile | 1.0 g, 53% | BrC1=C(C=C2C=CC(=CN12)C#N)C | C10H7BrN2
